US07491713B2
Step B: Methyl S-(2-amino-1-phenylethyl)-N-(tert-butoxycarbonyl)-D-cysteinate
10% palladium on carbon (3.04 g) was added to a solution of methyl N-(tert-butoxycarbonyl)-S-(2-nitro-1-phenylethyl)-D-cysteinate (1.00 g, 2.60 mmol) in acetic acid (50 mL). The reaction vessel was evacuated and back-filled with nitrogen (3×), then back-filled with hydrogen (50 psi). After 18 h the mixture was filtered, concentrated, and saturated aqueous sodium carbonate was added. The mixture was extracted with dichloromethane (3×), and the combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to give the title compound (0.73 g). MS 355 (M+1).

reactant | methyl N-(tert-butoxycarbonyl)-S-(2-nitro-1-phenylethyl)-D-cysteinate | 2.60 mmol, 1.00 g | C(C)(C)(C)OC(=O)N[C@H](CSC(C[N+](=O)[O-])C1=CC=CC=C1)C(=O)OC | C17H24N2O6S
catalyst | palladium on carbon | 3.04 g | [Pd] | Pd
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | Methyl S-(2-amino-1-phenylethyl)-N-(tert-butoxycarbonyl)-D-cysteinate | 0.73 g | NCC(C1=CC=CC=C1)SC[C@@H](NC(=O)OC(C)(C)C)C(=O)OC | C17H26N2O4S
